US06288062B1
(b) 4-(4-Fluorophenyl)-2-(4-methylthiophenyl)-5-(4-pyridyl)oxazole
To a solution containing a mixture of 2-(4-fluorophenyl)-1-(4-pyridyl)-2-oxoethyl 4-methylthiobenzoate and 1-(4-fluorophenyl)-2-(4-pyridyl)-2-oxoethyl 4 methylthiobenzoate (1.0 g, 2.62 mmol) in glacial acetic acid (50 mL) was added ammonium acetate (2.0 g, 26.2 mmol). The resulting mixture was heated at reflux for 1.5 h, then allowed to cool. The mixture was poured into H2O, neutralized with conc. NH4OH and extracted with CH2Cl2. The combined organic extracts were washed with sat'd NaCl and dried over MgSO4. Purification by column chromatography, eluting with 5:1 to 1:1 Hex/EtOAc afforded the title compound (77.6 mg) as a yellow solid: ESMS (m/z): 363.0 (M++H).

reactant | 2-(4-fluorophenyl)-1-(4-pyridyl)-2-oxoethyl 4-methylthiobenzoate | CC1=CC=C(C(=S)OC(C(=O)C2=CC=C(C=C2)F)C2=CC=NC=C2)C=C1 | C21H16FNO2S
reactant | 1-(4-fluorophenyl)-2-(4-pyridyl)-2-oxoethyl 4 methylthiobenzoate | 2.62 mmol, 1.0 g | CC1=CC=C(C(=S)OC(C(=O)C2=CC=NC=C2)C2=CC=C(C=C2)F)C=C1 | C21H16FNO2S
reactant | ammonium acetate | 26.2 mmol, 2.0 g | C(C)(=O)[O-].[NH4+]
reactant | NH4OH | [NH4+].[OH-]
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | H2O | O | H2O
product | 4-(4-Fluorophenyl)-2-(4-methylthiophenyl)-5-(4-pyridyl)oxazole | 77.6 mg | FC1=CC=C(C=C1)C=1N=C(OC1C1=CC=NC=C1)C1=CC=C(C=C1)SC | C21H15FN2OS
